US07125901B2
To a solution of N-{4-[4-(3-hydroxypropyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide (75 mg) in tetrahydrofuran (0.7 ml) were added triphenylphosphine (68.5 mg) and carbon tetrabromide (86.7 mg) at 0° C., and the mixture was stirred for 1 h at 20° C. The reaction mixture was purified by preparative thin-layer chromatography over silica gel with hexane/ethyl acetate (1:2) as an eluent to give N-{4-[4-(3-bromopropyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide as colorless oil.

reactant | N-{4-[4-(3-hydroxypropyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | 75 mg | OCCCC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H22N2O4S2
reactant | triphenylphosphine | 68.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 86.7 mg | C(Br)(Br)(Br)Br | CBr4
solvent | tetrahydrofuran | 0.7 ml | O1CCCC1 | C4H8O
product | N-{4-[4-(3-bromopropyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | BrCCCC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H21BrN2O3S2
